US07557112B2
28% ammonia water was added to a chloroform-MeOH solution of methyl 2-[(4-chloro-2,5-difluorobenzoyl)amino]nicotinate and the resultant was stirred all night at room temperature to give 2-(4-chloro-2,5-difluorophenyl)pyrido[2,3-d]pyrimidine-4(3H)-one.

reactant | ammonia water | O.N
reactant | methyl 2-[(4-chloro-2,5-difluorobenzoyl)amino]nicotinate | ClC1=CC(=C(C(=O)NC2=C(C(=O)OC)C=CC=N2)C=C1F)F | C14H9ClF2N2O3
solvent | chloroform MeOH | C(Cl)(Cl)Cl.CO
product | 2-(4-chloro-2,5-difluorophenyl)pyrido[2,3-d]pyrimidine-4(3H)-one | ClC1=CC(=C(C=C1F)C=1NC(C2=C(N1)N=CC=C2)=O)F | C13H6ClF2N3O
